*precharge circuit

.include PMOS-180nm.lib
m1 bl pre vdd  vdd  CMOSP W=0.36u L=0.18u M=1
m3 br pre vdd vdd CMOSP W=0.36u L=0.18u M=1
m2 br pre bl gnd CMOSN W=0.36u L=0.18u M=1
C1 bl gnd 20fF
C2 br gnd 20fF
v1  vdd gnd 1.8v


 v2  pre gnd pulse(0 1.8V 50ps 10ps 10ps 40ns 80ns)
.tran 10e-09 100e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt

plot v(pre)
plot v(bl) v(br)
.endc
.end
